### PR TITLE
feat(Combinatorics/SimpleGraph): Konig’s theorem on bipartite graphs

### PR DESCRIPTION
**Pull request by ksenono**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Combinatorics/SimpleGraph/Konig/KonigFin.lean [hunk 1]
```diff
@@ -0,0 +1,205 @@
...
+
+namespace SimpleGraph
+namespace Konig
+
+variable {V : Type*}
+{G : SimpleGraph V} {s t : Set V} {hbi : G.IsBipartiteWith s t}
+variable {C : Set V} {M : Subgraph G} (hM : M.IsMatching)
+
+def IsMinimalCover (G : SimpleGraph V) (C : Set V) :=
+   G.IsVertexCover C ∧ ∀ C' ≤ C, G.IsVertexCover C' → C' = C
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Konig/KonigFin.lean:54]:
```suggestion
def IsMinimalCover (G : SimpleGraph V) (C : Set V) :=
  Minimal G.IsVertexCover C
```
and this should be in `VertexCover.lean`

File: Mathlib/Combinatorics/SimpleGraph/Konig/KonigFin.lean [hunk 2]
```diff
@@ -0,0 +1,205 @@
...
+
+def IsMinSizeCover (G : SimpleGraph V) (C : Set V) :=
+   G.IsVertexCover C ∧ ∀ (C' : Set V), G.IsVertexCover C' → #C' ≥ #C
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Konig/KonigFin.lean:57]:
```suggestion
def IsMinSizeCover (G : SimpleGraph V) (C : Set V) :=
  MinimalFor G.IsVertexCover (#·) C
```
and this should be in `VertexCover.lean`

File: Mathlib/Combinatorics/SimpleGraph/Konig/KonigFin.lean [hunk 3]
```diff
@@ -0,0 +1,205 @@
...
+  refine ⟨hmin.left, fun C' hle hC' => Finite.eq_of_subset_of_card_le hfinC hle ?_⟩
+  have hcardle : #C ≤ #C' := hmin.right C' hC'
+  have hfinC' := (Finite.subset hfinC hle)
+  suffices h : Nat.card C = #C ∧ Nat.card C' = #↑C' from by
+    exact_mod_cast (by simpa [h.1.symm, h.2.symm] using hcardle)
+  constructor <;>
+  exact Cardinal.cast_toNat_of_lt_aleph0 <| Cardinal.lt_aleph0_iff_finite.mpr (by assumption)
+
+
+lemma minimal_cover_no_isolated (hminc : IsMinimalCover G C) : ∀ v ∈ C, ∃ w, G.Adj v w := by
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Konig/KonigFin.lean:70]:
```suggestion
lemma minimal_cover_no_isolated (hminc : IsMinimalCover G C) : ∀ v ∈ C, ¬G.IsIsolated v := by
```
